US07585885B2
(2R,4R)-2-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-4-(3-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
Add to an ice cold solution of (2R,4R)-2-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-4-(3-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.24 g, 0.51 mmol) and 4-methylmorpholine (0.061 mL, 0.556 mmol) in dichloromethane (15 mL) 1-acetylimidazole (0.061 g, 0.556 mmol). Warm to room temperature and stir 18 h. Concentrate and dissolve in ethyl acetate and wash with 1N HCl, saturated aqueous sodium bicarbonate, saturated aqueous sodium chloride, dry (magnesium sulfate) and purify (silica gel chromatography, eluting with dichloromethane/ethyl acetate mixtures) to give the title compound as a foam (0.18 g, 69%).

reactant | (2R,4R)-2-[(1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-4-(3-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.51 mmol, 0.24 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OC1=CC(=CC=C1)OC)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O | C25H32F2N2O5
reactant | 4-methylmorpholine | 0.556 mmol, 0.061 mL | CN1CCOCC1 | C5H11NO
reactant | dichloromethane | 0.556 mmol, 15 mL, 0.061 g | ClCCl | CH2Cl2
product | (2R,4R)-2-[(1S,2S)-2-Acetylamino-3-(3,5-difluorophenyl)-1-hydroxypropyl]-4-(3-methoxy-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.18 g, 69% | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OC1=CC(=CC=C1)OC)[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O | C27H34F2N2O6
